US06200672B1
With an aqueous solution of sodium 2-hydroxynicotinate there were mixed aqueous solutions of yttrium nitrate, lanthanum nitrate, cerium (III) nitrate, ammonium cerium (IV) nitrate and neobium nitrate, to obtain 2-hydroxynicotinic acid-rare earth metal complex colloids. The mixing speed was varied during mixing of the ammonium cerium (IV) nitrate aqueous solution, giving colloid solutions with mean particle sizes of 0.96 μm, 0.41 μm and 0.18 μm.

reactant | sodium 2-hydroxynicotinate | OC1=C(C(=O)[O-])C=CC=N1.[Na+]
reactant | lanthanum nitrate | [N+](=O)([O-])[O-].[La+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | cerium (III) nitrate | [N+](=O)([O-])[O-].[Ce+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | ammonium cerium (IV) nitrate | [N+](=O)([O-])[O-].[Ce+4].[NH4+].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | nitrate | [N+](=O)([O-])[O-]
catalyst | yttrium nitrate | [N+](=O)([O-])[O-].[Y+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
product | 2-hydroxynicotinic acid | OC1=C(C(=O)O)C=CC=N1 | C6H5NO3
